US08710049B2
To a dry round bottom flask was added 2M oxalyl chloride (1.392 mL, 2.78 mmol) and CH2Cl2 (10 mL). The resulting solution was cooled to −78° C. DMSO (0.395 mL, 5.57 mmol) was then slowly added to the solution over 10 min. The reaction was stirred at −78° C. for 20 mins. Then 1-(4-nitrophenyl)azepan-4-ol (470 mg, 1.989 mmol) dissolved in CH2Cl2 (5 ml) was added to the reaction and the reaction was stirred at −78° C. for 1.5 hr. After this time, Et3N (1.220 mL, 8.75 mmol) was added to the reaction mixture. The reaction mixture was then diluted with CH2Cl2 (30 ml). The reaction mixture was washed with water (20 ml) and saturated aqueous NaCl (20 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with a gradient of 0-100% EtOAc/Hex to give the product, 1-(4-nitrophenyl)azepan-4-one (392 mg, 1.673 mmol, 84% yield) as a yellow solid. Anal. Calcd. for C12H14N2O3 m/z 234.2, found: 235.1 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 8.12 (d, J=9.35 Hz, 2H), 6.66 (d, J=9.35 Hz, 2H), 3.95-3.83 (m, 2H), 3.83-3.72 (m, 2H), 2.92-2.66 (m, 4H), 2.02-1.86 (m, 2H); 13C NMR (126 MHz, CDCl3) δ ppm 209.79, 151.25, 137.70, 126.52, 110.45, 51.82, 45.39, 42.64, 41.79, 23.88.

reactant | oxalyl chloride | 2.78 mmol, 2M, 1.392 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 5.57 mmol, 0.395 mL | CS(=O)C | C2H6OS
reactant | 1-(4-nitrophenyl)azepan-4-ol | 1.989 mmol, 470 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CCC1)O | C12H16N2O3
reactant | Et3N | 8.75 mmol, 1.220 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-nitrophenyl)azepan-4-one | 1.673 mmol, 392 mg, 84% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CCC1)=O | C12H14N2O3
